data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8220,"O=C1NC2=C(NCC3=CC(Br)=C(O)C(Br)=C3)NC([O-:1])N=C2N1C1OC(CO)C(O)C1O.[Br-].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10197,"CC(=O)[O:1][H:2].CCOP(C)(C)(C)N(NC(=O)OC)C(OC)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7600,"C1CC[C+:1]2CCC[C:2]2([H:3])C1.O=P(O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,9867,"CCNC(C)[OH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,614,"COC(=O)C12CCC(C1=O)C([O-:1])C(C)C2.C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,76,"C1=CC=C(C[N:1]2C(C3=CC=CC=C3)=CC[C:2]2(C2=CC=CC=C2)[OH2+:3])C=C1.CC(=O)[O-].O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4945,"C1=CC=NC=C1.CC1=CN(C2CC(O)C(CO)O2)C(=O)NC1=O.COC1=CC=C([C:1](C2=CC=CC=C2)(C2=CC=C(OC)C=C2)[Cl:2])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,1042,"C[CH:1]=[NH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,8255,"CN(C)[C:1]1([O-:2])OCCC[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9068,"C1=CC2=C(C=C1)[C:1](=[OH+:2])[CH:3]([H:4])N2.CC(=O)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9060,"C[C:1](C)=[C:2](C)[O-:3].[CH3:4][Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4079,"C=CC(=O)[O:1][H:2].N#[C-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,724,"CO[C:1](C)([NH3+:2])[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4390,"N#CCC(N=C(N)N)[OH:1].N#[C:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4164,"CC(=O)O[Si-:1](C)(C)(C)[O+:2]=C(C)N|((1, 2), 2)"
train,pmechdb_split_0,0,2590,"CO[CH:1]([O:2]C)[SH+:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3525,"CCCC[C+:1]=C(C(=N[O:2]C)C1=CC=CC=C1)[B-]1(Cl)OC2=C(C=CC=C2)O1|(2, 1)"
train,pmechdb_split_0,0,385,"C=CCN.C=CC[N+:1](=CC1=CC=C(OC)C=C1)[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5799,"CC[Si:1](C)(C)C.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,3013,"CC(C)(C)[OH:1].CC[C+:2](C)[C:3](C)(C)[H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,7086,"CC(C)[C:1]1([H:2])OC(Br)=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7169,"CC(NCCO)(C1=C(O)C=CC=C1)[O-:1].OCC[NH2+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2410,"CC(C)[O-].CCCC(CCC)[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,7783,"CC(=O)C[CH:1]=[O:2].C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2061,"CC12CC[C:1]([N:2]3CCCC3C(=O)[O-])=[CH:3][C:4]1([OH:5])CCC2=O.O.O=C([O-])C1CCC[NH2+]1|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9779,"CC[NH:1]C(C)(N)O.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,15,"C[O+]([B-](C)(C)C)[Si-:1](C)(C)(C)[CH2:2][CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,1250,"CC(C)[C:1]1([H:2])C=C[C+:3](O)[CH:4]=[CH:5]1.[F-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,3484,"CC(C)(C)[O-:1].COC1=C2OC3C45CCN(CC6=CC=CC=C6)C(CC(=C24)C=C1)C5[CH:2]([H:3])[CH:4]([Br:5])C3(OC)OC.CS(C)=O.[K+]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1934,"CC(Br)[C:1]([CH2:2][H:3])=[O:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,9176,"CC1=CC=C2C(=C1)[CH:1]1CCC(C)CC[C:2](=[O+:3]CCO[B-](F)(F)F)[C:4]21[OH:5].CC[SiH](CC)CC|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,9663,"COC(=O)N([P+](C)(C)C)[N:1]=C([O-])OC.O=C1CCC(=O)[N:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6936,"C1=CC=CC=C1.C1=CC=NC=C1.CC(=O)CC[C:1](C)([NH:2]C1=CC2=C(C=C1)C(I)=C(C1=CC=CC=C1)O2)[OH2+:3].CC1=CC=C(S(=O)(=O)[O-])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2167,"COC(=O)C1C(OC2=CC=C(C=O)C=C2)CCN1C(=O)OC(C)(C)C.C[O:1][Na].O=[N+]([O-])[CH2:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9852,"C1C[CH:1]=[C:2]([O-:3])C1.CC(=O)[C:4]1([H:5])CCC[C:6]1=[O:7]|(3, 2);((2, 1), 5);((5, 4), 6);((6, 7), 7)"
train,pmechdb_split_0,0,4480,"CCC[OH+:1][K:2]|((2, 1), 1)"
train,pmechdb_split_0,0,6128,"CCC[NH2:1].O=C(C1=CC=CC=C1)[CH2:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2570,"C=C(Cl)Cl.O=C([O-])[NH:1]CCC=C1C2=C(C=CC=C2)COC2=C1C=CC=C2.[Cl][Zn+].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,639,"C1CCC2(C1)CCC[CH:1]2[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,3587,"CN1C(=O)[NH+:1]=[C:2](N)[CH:3]=[CH:4]1.O=[S-:5](=O)[O-]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,601,"CCO[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[N+:5]=[O:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,9859,"CC(=O)C1CCO[C:1]1([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7999,"CCOC(=O)[C:1](C)(C(=O)OCC)[H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,128,"C1CC[NH2+]CC1.CC(=O)[O-].CCC(C)C[CH:1]=[N+:2]1CCCCC1.CCOC(=O)[CH:3]=[C:4](C)[OH:5].O|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6434,"C[CH](C)[Al-]([O]C1CCCCC12CCCCC2=[O+:1][H:2])([CH](C)C)[CH](C)C.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5878,"OCCC(O)[OH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7895,"C1=CC=C([C:1]#[CH:2])C=C1.[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
